US07462634B2
iii. Preparation of tert-Butyl (6-{[(2-amino-4-methyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylpyridin-2-yl)carbamate
A solution of tert-butyl [6-({[2-(acetylamino)-4-methyl-1,3-thiazol-5-yl]sulfonyl}amino)-4-methylpyridin-2-yl]carbamate (2.1 g, 4.8 mmol, 1 equiv) and 1 N aqueous sodium hydroxide (7.2 mL) in methanol (30 mL) was heated to 50° C. for 48 h. Upon cooling to 24° C., the reaction mixture was concentrated in vacuo (˜25 mm Hg). The resulting solid was dissolved in water (20 mL). The solution was neutralized with concentrated hydrochloric acid until pH=7. The resulting solid was collected by filtration, washed with water (30 mL) and diethyl ether (2×30 mL) (1.59 g, 83%). 1H NMR (400 MHz, CDCl3), δ: 8.29 (br s, 1H), 7.48 (s, 1H), 6.91 (s, 1H), 2.40 (s, 3H), 2.33 (s, 3H), 1.52 (s, 9H); LCMS (ESI) m/z: 400.2.

reactant | tert-butyl [6-({[2-(acetylamino)-4-methyl-1,3-thiazol-5-yl]sulfonyl}amino)-4-methylpyridin-2-yl]carbamate | 4.8 mmol, 2.1 g, 1 equiv | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)NC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)C | C17H23N5O5S2
reactant | sodium hydroxide | 1 N, 7.2 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | tert-Butyl (6-{[(2-amino-4-methyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylpyridin-2-yl)carbamate | NC=1SC(=C(N1)C)S(=O)(=O)NC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)C | C15H21N5O4S2
